US05116869
To a solution of 3.3 g of 4-octyl-4-trimethylsilyloxy-2-cyclopentenone dissolved in 50 ml of methanol was added, under ice-cooling and stirring, 5.0 ml of an aqueous 30% hydrogen peroxide, and 500 μl of an aqueous 1N sodium hydroxide was added. After the mixture was stirred for 3.5 hours, saturated aqueous ammonium chloride was added, and the mixture was extracted with ethyl acetate The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The product was filtered and concentrated to give a crude oil of 2,3-epoxy-4-octyl-4-trimethylsilyloxycyclopentanone.

reactant | 4-octyl-4-trimethylsilyloxy-2-cyclopentenone | 3.3 g | C(CCCCCCC)C1(C=CC(C1)=O)O[Si](C)(C)C | C16H30O2Si
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
product | 2,3-epoxy-4-octyl-4-trimethylsilyloxycyclopentanone | O1C2C(CC(C21)(O[Si](C)(C)C)CCCCCCCC)=O | C16H30O3Si
